US04851413
A solution of 5.0 g (17.8 mmol) of 2-bromo-1,4-dimethoxy-3-methylnaphthalene in 30 ml of tetrahydrofuran was cooled to -78° C., to which 11.2 ml (17.9 mmol) of 1.6M n-butyllithium hexane solution was added dropwise, and stirred at the same temperature for 10 minutes after completion of the addition. Then 1.3 g (17.8 mmol) of dimethylformamide was added dropwise to the reaction mixture, and stirred at room temperature for 1 hour after completion of the addition. Water was added to the reaction mixture, from which the product was extracted with ethyl acetate. The extract was washed with water, dried, and concentrated. The residue was purified with silica gel column chromatography (hexane-isopropyl ether (8:2)), and crystallized from hexane-isopropyl ether, to give 2.0 g (48.9%) of 2-formyl-1,4-dimethoxy-3-methylnaphthalene. m.p. 95°-96° C.

reactant | 2-bromo-1,4-dimethoxy-3-methylnaphthalene | 17.8 mmol, 5.0 g | BrC1=C(C2=CC=CC=C2C(=C1C)OC)OC | C13H13BrO2
reactant | n-butyllithium hexane | 17.9 mmol, 1.6M, 11.2 ml | CCCCCC.C(CCC)[Li]
reactant | dimethylformamide | 17.8 mmol, 1.3 g | CN(C=O)C | C3H7NO
reactant | Water | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2-formyl-1,4-dimethoxy-3-methylnaphthalene | 2.0 g, 48.9% | C(=O)C1=C(C2=CC=CC=C2C(=C1C)OC)OC | C14H14O3
